US07842817B2
N-[1-(4-Chloro-3-trifluoromethylbenzyl)benzimidazol-2-yl]-4-chloro-3-trifluoromethylaniline
The title compound was prepared by Procedure B in two steps from 2-chloro-benzimidazole, 4-chloro-3-trifluoromethylbenzyl bromide and 4-chloro-3-trifluoromethylaniline. The product was isolated by preparative LCMS to give the title compound as the free base (off-white solid, mp 88-92° C.). MS(ES+) m/z 504 (M+, 100). 1NMR (DMSO-d6) δ 5.60 (s, 2H), 7.02-7.15 (m, 2H), 7.25-7.32 (m, 2H), 7.45-7.52 (m, 1H), 7.63-7.70 (m, 2H), 7.81 (s, 1H), 8.23-8.40 (m, 2H), 9.62 (br s, 1H).

reactant | 2-chloro-benzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-chloro-3-trifluoromethylbenzyl bromide | ClC1=C(C=C(CBr)C=C1)C(F)(F)F | C8H5BrClF3
reactant | 4-chloro-3-trifluoromethylaniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
product | N-[1-(4-Chloro-3-trifluoromethylbenzyl)benzimidazol-2-yl]-4-chloro-3-trifluoromethylaniline | ClC1=C(C=C(CN2C(=NC3=C2C=CC=C3)NC3=CC(=C(C=C3)Cl)C(F)(F)F)C=C1)C(F)(F)F | C22H13Cl2F6N3
